US05994355
Synthesis of 2-[4-(4-Acetylbenzyl)-3,5-dichlorophenyl]-1-benzylidenehydrazine
In 10 ml of acetic acid was dissolved 1.0 g of 4-(4-Acetylbenzyl)-3,5-dichloroaniline. To the solution was then added 1.0 ml of 35% hydrochloric acid. To the mixture was added dropwise, while cooling at temperatures ranging from 8-10° C., a solution of 0.3 g of 98.5% sodium nitrite in 1.0 ml water. The reaction mixture was stirred for one hour under the same conditions, to which was then added 2.0 g of Tin (II) chloride dihydrate dissolved in 2.0 ml of 35% hydrochloric acid. The reaction mixture was stirred for 3 hours at room temperature. To the mixture then added 20 ml of water and 20 ml chloroform. To the mixture was added dropwise, while cooling at the temperatures ranging from 5-10° C., 0.36 g of benzaldehyde. The reaction mixture was stirred for 30 minutes under the same conditions. After completion of the reaction, followed by extraction with 20 ml of chloroform. The extract was washed with water and saturated sodium hydrogen carbonate solution, dried over an hydrous magnesium sulfate, and concentrated to provide 0.88 g of the title compound as a colorless crystals, m.p. 137-139° C.

reactant | 4-(4-Acetylbenzyl)-3,5-dichloroaniline | 1.0 g | C(C)(=O)C1=CC=C(CC2=C(C=C(N)C=C2Cl)Cl)C=C1 | C15H13Cl2NO
reactant | sodium nitrite | 0.3 g | N(=O)[O-].[Na+]
reactant | Tin (II) chloride dihydrate | 2.0 g | O.O.[Sn](Cl)Cl
reactant | benzaldehyde | 0.36 g | C(C1=CC=CC=C1)=O | C7H6O
solvent | acetic acid | 10 ml | C(C)(=O)O | C2H4O2
solvent | water | 1.0 ml | O | H2O
solvent | hydrochloric acid | 2.0 ml | Cl | ClH
solvent | water | 20 ml | O | H2O
solvent | hydrochloric acid | 1.0 ml | Cl | ClH
solvent | chloroform | 20 ml | C(Cl)(Cl)Cl | CHCl3
product | 2-[4-(4-Acetylbenzyl)-3,5-dichlorophenyl]-1-benzylidenehydrazine | 0.88 g | C(C)(=O)C1=CC=C(CC2=C(C=C(C=C2Cl)NN=CC2=CC=CC=C2)Cl)C=C1 | C22H18Cl2N2O
